US07501425B1
1-Cyclopentyl-7-[4-(3-hydroxypiperidin-1-yl)phenylamino]pyrimido[4,5-d]-pyrimidin-2(1H)-one
Prepared from 75 mg (0.18 mmol) of 1-cyclopentyl-7-[4-(3-hydroxypiperidin-1-yl)phenylamino]-3,4-dihydro-pyrimido[4,5-d]pyrimidin-2(1H)-one and 82 mg (0.73 mmol) of potassium tert-butoxide in 4.0 mL of THF. The semi-solid residue is triturated in diethyl ether, and the orange amorphous solid is collected and dried to give 35 mg (45%) of the title compound: mp>135° C. (dec).

reactant | 1-cyclopentyl-7-[4-(3-hydroxypiperidin-1-yl)phenylamino]-3,4-dihydro-pyrimido[4,5-d]pyrimidin-2(1H)-one | 0.18 mmol, 75 mg | C1(CCCC1)N1C(NCC=2C1=NC(=NC2)NC2=CC=C(C=C2)N2CC(CCC2)O)=O | C22H28N6O2
reactant | potassium tert-butoxide | 0.73 mmol, 82 mg | CC(C)([O-])C.[K+]
solvent | THF | 4.0 mL | C1CCOC1 | C4H8O
product | 1-Cyclopentyl-7-[4-(3-hydroxypiperidin-1-yl)phenylamino]pyrimido[4,5-d]-pyrimidin-2(1H)-one | 35 mg, 45% | C1(CCCC1)N1C(N=CC=2C1=NC(=NC2)NC2=CC=C(C=C2)N2CC(CCC2)O)=O | C22H26N6O2
